US08497281B2
cis-6-Methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine
The title compound is prepared from 3-bromo-pyridine-2-carboxylic acid and 2-(3-methoxy-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (may be prepared as in WO 2001053268 described) following the synthetic sequence and protocols described for Intermediate 41; since 3-bromo-pyridine-2-carboxylic acid instead of 3-bromo-pyridine-2-carbonitrile is used for the Suzuki-Miyaura coupling (Step 1 of Intermediate 41), hydrolysis of the nitrile (Step 2 of Intermediate 41) is omitted.

reactant | 3-bromo-pyridine-2-carboxylic acid | BrC=1C(=NC=CC1)C(=O)O | C6H4BrNO2
reactant | 2-(3-methoxy-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | COC=1C(=C(C=CC1)B1OC(C(O1)(C)C)(C)C)C | C14H21BO3
product | cis-6-Methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | COC=1C=CC=2C[C@@H]3NCCC[C@@H]3C2C1C | C14H19NO
